US04458075
4-Cyano-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-phenylpiperidine hydrochloride
To 50 ml of dimethylformamide was added 4.4 g of 4-cyano-4-phenylpiperidine hydrochloride, 6.4 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 10 g of milled potassium carbonate, and 0.01 g of potassium iodide. After stirring at 90° C. for three hrs, the mixture was cooled, filtered, and the filtrate was evaporated to an oil. The oil was stirred with 100 ml of water for ten mins and then extracted with ether. The ether solution was washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solvent was evaporated. The residue was filtered through a silica gel column with tetrahydrofuran. The eluant was evaporated to an oil. The oil was dissolved in ether and treated with ethereal hydrogen chloride to give 2.4 g (29%) of product, mp 235° C. (dec). Recrystallization from ethyl acetate/methanol gave the analytical sample, mp 239° C.

reactant | 4-cyano-4-phenylpiperidine hydrochloride | 4.4 g | Cl.C(#N)C1(CCNCC1)C1=CC=CC=C1
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 6.4 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 0.01 g | [I-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-Cyano-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-phenylpiperidine hydrochloride | 2.4 g, 29% | Cl.C(#N)C1(CCN(CC1)CCCC1=NOC2=C1C=CC(=C2)F)C2=CC=CC=C2 | InChI=1S/C22H22FN3O.ClH/c23-18-8-9-19-20(25-27-21(19)15-18)7-4-12-26-13-10-22(16-24,11-14-26)17-5-2-1-3-6-17;/h1-3,5-6,8-9,15H,4,7,10-14H2;1H
